US05648354
To a stirred solution of 3-(hydroxymethyl)-6-[(tert-butyldimethylsilyloxy)methyl]-1,2-dithiin (U.S. Ser. No. 08/212,096) (350 mg, 1.20 mmol) in 5 mL dry THF was added a solution of 2-fluorophenol (270 mg, 215 μL, 2.40 mmol) in 5 mL THF, followed by addition of triphenylphosphine (385 mg, 2.40 mmol). The resulting solution was cooled to 0° C., then 245 μL (271 mg, 2.40 mmol) of diethylazodicarboxylate was added, and the reaction mixture was kept at 0°-5° C. for 30 min, and then the ice bath was removed. The reaction was stirred for 2 d at rt; some starting material still remained by TLC analysis. For isolation of the products, the reaction mixture poured directly onto a silica gel column using ethyl acetate-hexane, 1:3, to provide 329 mg (71%) of 3-[(tert-butyldimethylsilyloxy)methyl]-6-[(2fluoromethylphenyl-oxy)methyl]-1,2-dithiin; 1H NMR (CDCl3) δ7.7-6.83 (m, 4 H), 6.47 (d, J=6.0, 1 H), 6.38 (d, J=6.0, 1 H), 4.8 (s, 2 H), 4.26 (s, 2 H), 0.92 (s, 9 H), 0.10 (s, 6 H).

reactant | 3-(hydroxymethyl)-6-[(tert-butyldimethylsilyloxy)methyl]-1,2-dithiin | OCC=1SSC(=CC1)CO[Si](C)(C)C(C)(C)C | C12H22O2S2Si
reactant | 2-fluorophenol | 2.40 mmol, 215 μL, 270 mg | FC1=C(C=CC=C1)O | C6H5FO
reactant | triphenylphosphine | 2.40 mmol, 385 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 2.40 mmol, 245 μL, 271 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-[(tert-butyldimethylsilyloxy)methyl]-6-[(2fluoromethylphenyl-oxy)methyl]-1,2-dithiin | 329 mg, 71% | [Si](C)(C)(C(C)(C)C)OCC=1SSC(=CC1)COC1=C(C=CC=C1)CF | C19H27FO2S2Si
